US09388203B2
Step A: Preparation of 6-[(2-chloro-5-fluoro-pyrimidin-4-yl)amino]-2,2-dimethyl-4H-pyrido[3,2-b][1,4]oxazin-3-one
6-amino-2,2-dimethyl-4H-pyrido[3,2-b][1,4]oxazin-3-one (450 kg, 1.00 mol eq) is stirred in a mixture of methanol (1971 kg) and water (1610 kg) under a nitrogen atmosphere with heating to about 65° C. To this is added a solution of 2,4-dichloro-5-fluoro-pyrimidine in dichloromethane (545 kg 2,4-dichloro-5-fluoro-pyrimidine, 1.40 mol eq, about 50% w/w solution) over a period of about 4 hours, during which dichloromethane is distilled off. The mixture is then stirred at about 70° C. until distillation is complete and then at reflux for about 15 hours. This is then cooled to about 45° C. and filtered. The filtered solid is washed twice with methanol (2×675 kg) and then dried under vacuum at about 55° C. Once dry, the solid is slurried in 85% w/w aqueous formic acid (3150 kg) at about 50° C. for about 6 hours and then filtered. This slurry may be repeated. The resulting damp solid is cooled to about 20° C., washed twice with methanol (2×1800 kg) and dried under vacuum at about 80° C. to give the title compound (577 kg, 77%) as a colored solid.

reactant | 6-amino-2,2-dimethyl-4H-pyrido[3,2-b][1,4]oxazin-3-one | 1.00 mol, 450 kg | NC=1C=CC=2OC(C(NC2N1)=O)(C)C | C9H11N3O2
reactant | 2,4-dichloro-5-fluoro-pyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2,4-dichloro-5-fluoro-pyrimidine | 545 kg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
solvent | methanol | 1971 kg | CO | CH4O
solvent | water | 1610 kg | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-[(2-chloro-5-fluoro-pyrimidin-4-yl)amino]-2,2-dimethyl-4H-pyrido[3,2-b][1,4]oxazin-3-one | 577 kg, 77% | ClC1=NC=C(C(=N1)NC=1C=CC=2OC(C(NC2N1)=O)(C)C)F | C13H11ClFN5O2
